US08207180B2
2-Phenyl-1H-pyrrolo[2,3-f]isoquinoline-3-carbaldehyde (G1)
To a solution of 2-phenyl-1H-pyrrolo[2,3-f]isoquinoline XIXA (2.75 mmol) in DCM (13 mL) and nitromethane (13 mL), cooled to 0° C., aluminum chloride (8.25 mmol) and dichloromethylmethylether (5.5 mmol) were added dropwise. The mixture was kept at 4° C. overnight and poured dropwise into stirred ice-cooled water. The solid product was filtered and the layers were separated. The aqueous layer was extracted with DCM and AcOEt. The combined organic layers, washed with water, dried (Na2SO4) and concentrated, were joined to the previously described solid affording the title compound in 51% yield. ESI (+) MS: m/z 273 (MH+). 1H NMR: 7.66-7.71 (m, 3H), 7.91-7.96 (m, 2H), 8.19 (d, J=8.79, 1H), 8.71 (d, J=8.55, 1H), 8.79 (d, J=6.35, 1H), 8.93 (d, J=6.35, 1H), 9.77 (s, 1H), 10.12 (s, 1H), 13.80 (bs, 1H).

reactant | 2-phenyl-1H-pyrrolo[2,3-f]isoquinoline | C1(=CC=CC=C1)C1=CC=2C(=C3C=CN=CC3=CC2)N1 | C17H12N2
reactant | aluminum chloride | 8.25 mmol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dichloromethylmethylether | 5.5 mmol | ClC(Cl)OC | C2H4Cl2O
reactant | water | O | H2O
solvent | DCM | 13 mL | C(Cl)Cl | CH2Cl2
solvent | nitromethane | 13 mL | [N+](=O)([O-])C | CH3NO2
product | 2-Phenyl-1H-pyrrolo[2,3-f]isoquinoline-3-carbaldehyde | 51% yield | C1(=CC=CC=C1)C1=C(C=2C(=C3C=CN=CC3=CC2)N1)C=O | C18H12N2O
